US06586434B2
Preparation of 2-methyl-3-phenylthiopropanal
To a stirred mixture of 51.4 g (0.733 mole) of methacrolein and 2 g (0.018 mole) of triethylamine at 0-5° C. is added 80.8 g (0.733 mole) of benzenethiol slowly. The addition rate is such that the temperature was under 10° C. The reaction mixture is stirred at 0-5° C. for one hour. The mixture is placed on a rotary evaporator to remove triethylamine.

reactant | methacrolein | 0.733 mole, 51.4 g | O=CC(C)=C | C4H6O
reactant | triethylamine | 0.018 mole, 2 g | C(C)N(CC)CC | C6H15N
reactant | benzenethiol | 0.733 mole, 80.8 g | C1(=CC=CC=C1)S | C6H6S
product | 2-methyl-3-phenylthiopropanal | CC(C=O)CSC1=CC=CC=C1 | C10H12OS
